US07208524B2
Magnesium (9.52 g) was suspended in 119 mL of tetrahydrofuran, and to the suspension were added 3.00 g of 2-bromothioanisole and about 20 mg of iodine. After the reaction was started by heating employing a dryer, 72 g of 2-bromothioanisole was dropped to the mixture during 20minutes. After being heated for 1 hour, the reaction mixture was diluted with 1000 mL of tetrahydrofuran, and cooled to 0° C. To the mixture was added 102 mL of triisopropyl borate at the same temperature, and the mixture was stirred at room temperature for 4 hours. To the reaction mixture was added water, and the solvent was removed under reduced pressure. The residue was added 500 mL of 2 mol/L hydrochloric acid, and the mixture was extracted with 300 mL of diethyl ether. The organic layer was extracted with 500 mL of 2 mol/L aqueous sodium hydroxide solution, and the aqueous layer was acidified by addition of concentrated hydrochloric acid under ice-cooling. The residual diethyl ether was removed under reduced pressure, and the precipitate was collected by filtration to give 45.95 g of 2-(methylthio)-phenylboronic acid.

reactant | Magnesium | 9.52 g | [Mg] | Mg
reactant | 2-bromothioanisole | 72 g | BrC1=C(C=CC=C1)SC | C7H7BrS
reactant | triisopropyl borate | 102 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 119 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1000 mL | O1CCCC1 | C4H8O
catalyst | 2-bromothioanisole | 3.00 g | BrC1=C(C=CC=C1)SC | C7H7BrS
catalyst | iodine | about 20 mg | II | I2
product | 2-(methylthio)-phenylboronic acid | 45.95 g | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
